US05981492
71b. (R)-2-Benzyloxycarbonylamino-2-phenylethanol
40.5 g (295 mmol) of (R)-2-amino-2-phenylethanol are dissolved in 385 ml of absolute dimethylformamide. 73.5 g of N-(benzyloxycarbonyloxy)succinimide (295 mmol) are added, at 0° C. and while stirring, and the mixture is then stirred at 0° C. for 1 hour. The ice bath is removed and the mixture is left to stand at room temperature for 48 h. The reaction solution is concentrated in vacuo and the residue is then taken up in 500 ml of ethyl acetate. The organic phase is washed twice with a 10% aqueous solution of citric acid and once with water. It is then dried over anhydrous sodium sulphate and concentrated. The resulting crystalline crude product (82.3 g) is once again dissolved in ethyl acetate. The organic phase is washed twice with a 10% aqueous solution of citric acid and once with water. Recrystallization subsequently takes place from ethyl acetate/petroleum ether.

reactant | (R)-2-amino-2-phenylethanol | 295 mmol, 40.5 g | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | N-(benzyloxycarbonyloxy)succinimide | 295 mmol, 73.5 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | dimethylformamide | 385 ml | CN(C=O)C | C3H7NO
product | (R)-2-Benzyloxycarbonylamino-2-phenylethanol | C(C1=CC=CC=C1)OC(=O)N[C@@H](CO)C1=CC=CC=C1 | C16H17NO3
